US07531532B2
4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide
After adding 20% palladium hydroxide (150 mg) to a solution of 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (69.1 mg) in tetrahydrofuran, the mixture was stirred for 7 hours at room temperature under a hydrogen atmosphere. The catalyst was then filtered. The filtrate was concentrated to provide the title compound (31.8 mg, 64.2%) as a yellow oil.

reactant | 4-(1-methylazetidin-3-yl)piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 69.1 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=CC(=C1)[N+](=O)[O-] | C19H22FN7O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium hydroxide | 150 mg | [OH-].[Pd+2].[OH-]
product | 4-(1-Methylazetidin-3-yl)piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 31.8 mg, 64.2% | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)C2CN(C2)C)C=C1)F | C19H24FN7O2
